US08476297B2
A suspension of N-(4-fluorophenethyl)-4-(trifluoromethyl)benzamide (5.3 g, 17.1 mmol) and phosphoric pentoxide (1.2 g, 8.6 mmol) in polyphosphoric acid (40 g) was heated at 165° C. for 4 h and The reaction was cooled to RT and ice was added followed by ethyl acetate (100 mL), KOH (3N, 25 mL), and water (75 mL). The mixture was stirred for 15 min and the organic layer was separated. The aqueous layer was neutralized with KOH (3N) till pH˜7.0 was achieved and extracted with ethyl acetate (250 mL). The ethyl acetate layer was separated, dried over anhydrous sodium sulfate, and concentrated under vacuum to provide 7-fluoro-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline. MS (ESI pos. ion) m/z: 294 (M+H).

reactant | N-(4-fluorophenethyl)-4-(trifluoromethyl)benzamide | 17.1 mmol, 5.3 g | FC1=CC=C(CCNC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C16H13F4NO
reactant | phosphoric pentoxide | 8.6 mmol, 1.2 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | KOH | 3N, 25 mL | [OH-].[K+]
solvent | water | 75 mL | O | H2O
product | 7-fluoro-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline | FC1=CC=C2CCN=C(C2=C1)C1=CC=C(C=C1)C(F)(F)F | C16H11F4N
